* A dual opamp ngspice model
* file name: LM358-dual.lib
.subckt LM358 1OUT 1IN- 1IN+ VEE 2IN+ 2IN- 2OUT VCC
.include Lm358.mod
XU1A 1IN+ 1IN- VCC VEE 1OUT LM358/NS
XU1B 2IN+ 2IN- VCC VEE 2OUT LM358/NS
.ends